### PR TITLE
Proof simplifications in ereal.v

### PR DESCRIPTION
**Pull request by CohenCyril**

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -1331,84 +1348,62 @@ move: x y z => [x| |] [y| |] [z| |] _ //=; rewrite ?lee_pinfty ?lee_ninfty //.
...
-Proof.
-by move=> x0; rewrite -muleNN pmule_lle0 1?lee_oppl ?oppe0// -lte_oppr oppe0.
-Qed.
+Lemma pmule_rgt0 x y : 0 < x -> (x * y > 0) = (y > 0).
+Proof. by move=> xgt0; rewrite -oppe_lt0 -muleN pmule_rlt0 ?oppe_lt0. Qed.
 
-Lemma nmule_rle0 x y : x < 0 -> (x * y <= 0) = (0 <= y).
-Proof. by move=> x0; rewrite muleC nmule_lle0. Qed.
+Lemma pmule_lgt0 x y : 0 < x -> (y * x > 0) = (y > 0).
+Proof. by move=> xgt0; rewrite -oppe_lt0 -mulNe pmule_llt0 ?oppe_lt0. Qed.
```
Comment (proux01) [inline theories/ereal.v:1376]:
```suggestion
Lemma pmule_lgt0 x y : 0 < x -> (y * x > 0) = (y > 0).
Proof. by move=> xgt0; rewrite muleC pmule_rgt0. Qed.
```
(and same below for some nmule*, but probably not worth the change)

**Review by proux01 — COMMENTED** [review]
Minor points

File: theories/ereal.v [hunk 2]
```diff
@@ -506,11 +506,11 @@ Lemma NEFin r : (- r)%:E = (- r%:E). Proof. by []. Qed.
 Lemma real_of_extendedN x : real_of_extended (- x) = (- real_of_extended x)%R.
 Proof. by case: x => //=; rewrite oppr0. Qed.
 
-Lemma addEFin r r' : (r + r')%:E = r%:E + r'%:E.
-Proof. by []. Qed.
+Lemma oppEFin r : (- r)%:E = - r%:E. Proof. by []. Qed.
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/ereal.v:509]: Shouldn't `NEFin` (and `oppEFin` for that matter) actually be `EFinN`?
(and `EFinD`, etc.)

File: theories/ereal.v [hunk 3]
```diff
@@ -834,12 +853,12 @@ Qed.
 Lemma dual_addeE_def x y : x +? y -> (x + y)%dE = (x + y)%E.
 Proof. by case: x => [x| |]; case: y. Qed.
 
-Lemma daddEFin (r r' : R) : (r + r')%R%:E = r%:E + r'%:E.
+Lemma dEFinD (r r' : R) : (r + r')%R%:E = r%:E + r'%:E.
 Proof. by []. Qed.
```
Comment (proux01) [inline theories/ereal.v:857]: could you please add `dEFinB`?
```suggestion
Lemma dEFinD (r r' : R) : (r + r')%R%:E = r%:E + r'%:E. Proof. by []. Qed.

Lemma dEFinB r r' : (r - r')%:E = r%:E - r'%:E. Proof. by []. Qed.
```

File: theories/ereal.v [hunk 4]
```diff
@@ -834,12 +853,12 @@ Qed.
...
 
 Lemma dsumEFin I r P (F : I -> R) :
   \sum_(i <- r | P i) (F i)%:E = (\sum_(i <- r | P i) F i)%R%:E.
-Proof. by rewrite dual_sumeE sumEFin sumrN NEFin oppeK. Qed.
+Proof. by rewrite dual_sumeE sumEFin sumrN EFinN oppeK. Qed.
 
 Lemma dsubEFin (r r' : R) : (r - r')%R%:E = r%:E - r'%:E.
```
Comment (proux01) [inline theories/ereal.v:863]: could you please also rename
```suggestion
Lemma dEFinB (r r' : R) : (r - r')%R%:E = r%:E - r'%:E.
```

**Review by affeldt-aist — APPROVED** [review]
That's all very welcomed improvements. Let's merge it.
